US07884214B2
Step-3: Preparation of 4′-[4-Methyl-6-(1-methyl-1H-benzimidazol-2-yl)-2-n-propyl-1H-benzimidazol-1-yl-methyl]biphenyl-2-carboxylic acid dihydrochloride (Telmisartan dihydrochloride)
Tert.Butyl-4′-[4-Methyl-6-(1-methyl-1H-benzimidazol-2-yl)-2-n-propyl-1H-benzimidazol-1-yl-methyl]biphenyl-2-carboxylate hydrochloride (50 gms) is suspended in acetone (250 ml) and hydrochloric acid (50 ml) is added. Temperature of the mass is raised, maintained at 50° C.-55° C. for 3 hrs, cooled and maintained at 25-30° C. for 2 hrs. Product is filtered; wet cake is washed with water (2×50 ml) and acetone (50 ml). Dried the wet cake at temperature 60° C.-65° C. till constant weight.

reactant | Tert.Butyl-4′-[4-Methyl-6-(1-methyl-1H-benzimidazol-2-yl)-2-n-propyl-1H-benzimidazol-1-yl-methyl]biphenyl-2-carboxylate hydrochloride | 50 gms | Cl.C(C)(C)(C)OC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)CN1C(=NC2=C1C=C(C=C2C)C2=NC1=C(N2C)C=CC=C1)CCC
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | 4′-[4-Methyl-6-(1-methyl-1H-benzimidazol-2-yl)-2-n-propyl-1H-benzimidazol-1-yl-methyl]biphenyl-2-carboxylic acid dihydrochloride | Cl.Cl.CC1=CC(=CC=2N(C(=NC21)CCC)CC2=CC=C(C=C2)C=2C(=CC=CC2)C(=O)O)C2=NC1=C(N2C)C=CC=C1 | InChI=1S/C33H30N4O2.2ClH/c1-4-9-30-35-31-21(2)18-24(32-34-27-12-7-8-13-28(27)36(32)3)19-29(31)37(30)20-22-14-16-23(17-15-22)25-10-5-6-11-26(25)33(38)39;;/h5-8,10-19H,4,9,20H2,1-3H3,(H,38,39);2*1H
